US05308863
5,6-Dihydro-4-ethylamino-6-(2-hydroxyethoxy)methyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride, trans isomer
Under N2, 18-crown 6 (7.92 g, 0.03 mol) in CH2Cl2 (50 ml) and NaI (5 g, 0.033 mol) was stirred at room temperature. After 5 minutes, the reaction was cooled to 0°-4° C. and an ether solution of trans-5,6-dihydro-4-ethylamino-6-(2-methoxyethoxy) methyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (2.1g, 0.005 mol) was added. After addition, the reaction was stirred at room temperature for 0.5 hours and then cooled to -78° C. and BBr3 in CH2Cl2 (1M, 25 ml, 0.025 mol) was added. After the addition, the reaction was allowed to warm to 0° C. over 3 hours. The mixture was then concentrated to dryness and the residue was treated with 6N HCl (40 ml). After heating for 5 minutes in a steam bath, the reaction was cooled and neutralized to pH 8.5 with NaHCO3. The resulting mixture was extracted with EtOAc(3×) and the organic extracts were dried, filtered and concentrated to dryness. The residue was chromatographed on a Still silica gel column and the product eluted with 25-50% methanol-chloroform with 2.5 to 5.0% aqueous NH3 to yield crude product. The material was crystallized as the HCl salt from EtOH to yield 280 mg (13%) of the title compound; m.p. 157°-9° C.

reactant | 18-crown 6 | 0.03 mol, 7.92 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | NaI | 0.033 mol, 5 g | [Na+].[I-]
reactant | trans-5,6-dihydro-4-ethylamino-6-(2-methoxyethoxy) methyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.005 mol, 2.1g | C(C)N[C@@H]1C2=C(S([C@H](C1)COCCOC)(=O)=O)SC(=C2)S(=O)(=O)N | C13H22N2O6S3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 0.025 mol, 1M, 25 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5,6-Dihydro-4-ethylamino-6-(2-hydroxyethoxy)methyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride | 280 mg, 13% | Cl.C(C)NC1C2=C(S(C(C1)COCCO)(=O)=O)SC(=C2)S(=O)(=O)N | InChI=1S/C12H20N2O6S3.ClH/c1-2-14-10-5-8(7-20-4-3-15)22(16,17)12-9(10)6-11(21-12)23(13,18)19;/h6,8,10,14-15H,2-5,7H2,1H3,(H2,13,18,19);1H
